US07642075B2
Production of poly(glycerol-sebacate) (PGS)
Glycerol (0.2 mol) was added to 30 ml of toluene containing sebacic acid (0.2 mol) dissolved therein, and then stirred in an argon atmosphere at 55° C. for one hour. After an enzyme B (5 wt %) was added as a catalyst, the mixture was allowed to react at 100° C. for 72 hours. Polycondensation was carried out using a dean-stark trap device. The resulting product was dried for 24 hours at reduced pressure.

reactant | Glycerol | 0.2 mol | OCC(O)CO | C3H8O3
reactant | sebacic acid | 0.2 mol | C(CCCCCCCCC(=O)O)(=O)O | C10H18O4
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | glycerol sebacate | OCC(O)CO.C(CCCCCCCCC(=O)[O-])(=O)[O-] | InChI=1S/C10H18O4.C3H8O3/c11-9(12)7-5-3-1-2-4-6-8-10(13)14;4-1-3(6)2-5/h1-8H2,(H,11,12)(H,13,14);3-6H,1-2H2/p-2
